Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pollen extracts
 
Attending: ___.
 
Chief Complaint:
hematochezia, abdominal pain x1 week
 
Major Surgical or Invasive Procedure:
Flex sig

 
History of Present Illness:
___ with hx of presumed ulcerative colitis, hospitalized
___ given concern for colitis flare (flex sig deferred
in setting of early pregnancy, no longer pregnant), discharged 
on
mesalamine PR and ___ BID (not taking), presenting with
recurrent hematochezia, abdominal pain x1 week. Review of
discharge summary from ___ reveals pt presenting with N/V 
and
diarrhea raising concern for infectious gastroenteritis vs IBD
flare. At that time, review of outpatient records revealed prior
biopsy nondiagnostic for IBD. During that hospitalization, pt 
was
C. diff negative, CRP WNL. Given early pregnancy (undesired),
decision was made to treat empirically for UC flare with Canasa
suppository and Lialda BID. Steroids were not indicated given
normal CRP, and resolution of hematochezia during the
hospitalization. Plan was for f/u at ___, which
was scheduled for 2 weeks after discharge. 

On ___, at 6w GA, pt underwent medical abortion with
mifepristone and misoprostol; she was prescribed ibuprofen 600 
mg
PO q6h prn, and cannot recall how many doses of ibuprofen she
took. 

Pt called GI providers on ___ reporting "flare up" of her
symptoms, including bloody diarrhea, nausea without emesis. She
was advised to present to the ED for further care, given concern
for IBD. 

On arrival, pt describes bloody stool x1 week, with significant
variation from day to day. She describes hematochezia as bright
red blood sometimes mixed with stool, and at other times, "just
blood." She has been having ___ BMs per day, with lower 
abdominal
aching, cramping pain with tenesmus, ___, sometimes but not
consistently relieved by defecation. She denies F/C, endorses
nausea without emesis, denies headache, rhinorrhea, sore throat,
cough, dysuria. She notes that she had vaginal bleeding after 
the
interruption of pregnancy which subsequently resolved, and then
had onset of menses 1 day prior to presentation. Pt states that
she has not been using mesalamine suppositories x2 weeks because
"I didn't feel like I was doing it right." She has not been
taking Lialda. 

She also inquires about emergency contraception because condom
broke 2 days prior to presentation. She notes that her boyfriend
was upset about the interruption of pregnancy, because "he wants
a baby." States that she feels safe in her relationship.

In the ___ ED:
VS 97.7, 100->56, 115/57, 99%RA
Exam notable for
"Con: Comfortable, in no acute distress
HEENT: NCAT. PERRLA, no icterus. EOMI
Neck: no JVD
Resp: No incr WOB, CTAB.
CV: RRR. Normal S1/S2. 2+ radial pulse bilaterally
Abd: Soft, Nontender, Nondistended.
DRE: Brown stool, guaiac positive
MSK: ___ without edema.
Skin: No rash, Warm and dry, No petechiae
Neuro: AOx3, speech fluent, no obvious facial asymmetry, moves
all 4 ext to command.
Psych: Normal mentation"

Labs notable for: 
- CBC: 7.0/12.5/39.9/259
- Lytes: ___
- UA: Trace leuks, large blood, negative nitrites, >182 RBCs, 23
WBCs, no bacteria, 4 epis
UCG negative
CRP pending

Imaging:
None

Consults:
GI

Received:
IVF

On arrival to the floor, pt denies pain, chest pain, SOB.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI
 
Past Medical History:
?Ulcerative colitis
 
Social History:
___
Family History:
Father with DM
Mother has some medical problems but does not discuss them with
pt
6 half siblings, no known medical problems
 
Physical Exam:
ADMISSION EXAM:
VS: ___ Sitting___
GEN: alert and interactive, comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes, ears without lesions 
or
apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm with ___ systolic murmur
at RUSB, no rubs or gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, mild TTP at suprapubic region, without rebounding or
guarding, nondistended with normal active bowel
sounds, no hepatomegaly
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: Alert and interactive, cranial nerves II-XII grossly
intact, strength and sensation grossly intact
PSYCH: normal mood and affect

DISCHARGE EXAM:
GENERAL: Alert, NAD
EYES: Anicteric, PERRL
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
ABD/GI: Soft, ND, no longer tender to palpation, normoactive
bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
VASC/EXT: No ___ edema, 2+ DP pulses
SKIN: No rashes or lesions noted on visible skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
moves all limbs 
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
LABS:
___ 07:47PM BLOOD WBC-7.0 RBC-4.32 Hgb-12.5 Hct-39.9 MCV-92 
MCH-28.9 MCHC-31.3* RDW-13.2 RDWSD-44.3 Plt ___
___ 07:47PM BLOOD Neuts-47.9 ___ Monos-13.9* 
Eos-2.3 Baso-0.4 Im ___ AbsNeut-3.35 AbsLymp-2.46 
AbsMono-0.97* AbsEos-0.16 AbsBaso-0.03
___ 07:47PM BLOOD Glucose-88 UreaN-5* Creat-0.7 Na-136 
K-4.2 Cl-102 HCO3-25 AnGap-9*
___ 06:55AM BLOOD ALT-9 AST-15 AlkPhos-69 TotBili-0.5
___ 07:47PM BLOOD HCG-6
___ 07:47PM BLOOD CRP-0.5

MICRO:
C.diff (___): negative
O&P (___): NO OVA AND PARASITES SEEN. 
Fecal culture (___): pending
UCx (___): pending

PATHOLOGY:

Surgical pathology final report
___
Mucosal biopsies:
Duodenal mucosa within normal stomach notable for chronic
inactive gastritis.  Immunostain for Helicobacter is negative. 
Squamous epithelium in the esophagus within normal limits. 
Terminal ileal mucosa within normal limits.  Colonic mucosa
within normal limits.  Sigmoid colon notable for moderately
active colitis, patchy.  Rectum notable for moderately active
colitis, patchy.  Note: Neither evidence of chronic mucosal
injury nor granulomas are seen.  The differential diagnosis of
the colonic findings includes infection, drug effect and early
idiopathic inflammatory bowel disease.

IMAGING:

Pelvic US (___):
IMPRESSION:  
Retained products of conception, with a central vascularized
portion measuring 1.7 x 0.4 x 1.5 cm.  Accounting for 
surrounding
devascularized tissue, the entire collection measures 2.4 x 1.0 
x
1.4 cm. 
 
Brief Hospital Course:
___ with hx of presumed ulcerative colitis, hospitalized 
___ given concern for colitis flare (flex sig deferred 
in setting of early pregnancy, no longer pregnant), discharged 
on mesalamine PR and ___ BID (not taking), presenting with 
recurrent hematochezia, abdominal pain x1 week concerning for 
IBD flare. Found to have retained products of conception on 
pelvic ultrasound after elective abortion.

# Hematochezia
# Abdominal pain
Pt carries diagnosis of presumed UC, although biopsy at 
___ not definitive. Likely triggers included 
discontinuation of mesalamine, as well as NSAID use after 
medical abortion. C.diff and O&P wre negative; fecal culture was 
negative. GI was consulted. She had a flex sigmoidoscopy on ___ 
which showed mild inflammation throughout the descending colon 
and in the sigmoid colon. She was started on Pentasa 1g 4 times 
daily with Rowasa enemas. Her symptoms improved significantly, 
only having 2 nonbloody, more formed stools prior to discharge. 
The GI team will set up follow up appointment for her.

# Recent medical abortion
# Retained products of conception
# Contraception/family planning
She underwent an elective medical abortion on ___ at 6 weeks 
gestation with mifepristone and misoprostol. HCG during this 
admission was 6. She had a pelvic ultrasound on ___ which 
demonstrated retained products of conception measuring 2.4 x 1.0 
x 1.4 cm. Pt counseled by OB/GYN re: RPOCs and options presented 
were misoprostol or D&C. Pt elected misoprostol. Pt given 
emergency contraception the night of admission after sexual 
intercourse 2 days ago during which condom broke. She was 
counseled re: contraception options. She elected an OCP. She was 
prescribed Sprintec on discharge. 
 [ ] She will need a repeat ultrasound in 1 week and follow up 
with Ob/Gyn

>30 minutes spent on complex discharge

 
Medications on Admission:
Patient not taking any medications
 
Discharge Medications:
1.  Mesalamine Enema 4 gm PR QHS 
RX *mesalamine 4 gram/60 mL 4 gm rectally at bedtime Disp #*30 
Each Refills:*0 
2.  Mesalamine 1000 mg PO QID 
RX *mesalamine [Pentasa] 500 mg 2 capsule(s) by mouth four times 
a day Disp #*240 Capsule Refills:*0 
3.  Sprintec (28) (norgestimate-ethinyl estradiol) 0.25-35 
mg-mcg oral DAILY 
RX *norgestimate-ethinyl estradiol [Sprintec (28)] 0.25 mg-35 
mcg 1 tab-cap by mouth once a day Disp #*30 Tablet Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
*** UC flare
Retained products of conception

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
You were admitted to the hospital for bloody stools due to 
concern for an ulcerative colitis (UC) flare. 
You were seen by gastroenterology and had a flex sigmoidoscopy 
which showed mild active inflammation. You were started on 
medications to treat your UC and it will be important to 
continue taking these. It will also be important to never take 
NSAIDs (like ibuprofen/Advil/Motrin or naproxen/Aleve). 

You were found to have retained products of conception on a 
pelvic ultrasound. You were seen by OB/Gyn and given 
misoprostol. You will need to have a repeat ultrasound in a week 
and meet with them.

You were prescribed birth control that you should take daily. 

Best wishes for your continued health.

Take care,
Your ___ Care Team
 
Followup Instructions:
___